US04593141
A stirred mixture of 47.6 g (0.7 m) cyclopentene and 136.7 g (0.735 m) diphenyl phosphine in a quartz wessel was irradiated at 15° C. by a broad spectrum ultraviolet light for 17 days. A slow addition reaction took place. Gas chromatographic analysis indicated 60% conversion at the end of the reaction period. The reaction mixture was then fractionally distilled in vacuo to obtain the desired cyclopentyl diphenyl phoshine adduct as a colorless mobile liquid of bp. 138°-140° C. at 0.3 mm (As a by-product, tetraphenyl biphosphine, bp. 210°-212° C. at 0.15 mm, was obtained.)

reactant | cyclopentene | 47.6 g | C1=CCCC1 | C5H8
reactant | diphenyl phosphine | 136.7 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
product | cyclopentyl diphenyl phoshine | C1(CCCC1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C17H19P
